US05283241
Step P: 4-Bromomethyl- 2'-(methoxycarbonyl)amino-1,1'-biphenyl
A solution of 4-hydroxymethyl-2'-(methoxycarbonyl)amino-1,1'-biphenyl (239 mg, 0.93 mmol) in methylene chloride (4 mL) was treated with bromotrimethylsilane (3.0 mL, 22.7 mmol). The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with additional methylene chloride and washed with saturated aqueous sodium chloride. After drying over magnesium sulfate, the filtered organic layer was evaporated under vacuum The residue was purified by preparative thin layer chromatography on silica gel, eluting with methylene chloride/methanol (100:3) to give 190 mg of the product.

reactant | 4-hydroxymethyl-2'-(methoxycarbonyl)amino-1,1'-biphenyl | 0.93 mmol, 239 mg | OCC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)OC | C15H15NO3
reactant | bromotrimethylsilane | 22.7 mmol, 3.0 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromomethyl- 2'-(methoxycarbonyl)amino-1,1'-biphenyl | 190 mg | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)OC | C15H14BrNO2
